US05856529
(trans)-N-Methyl-N-[[2-(2,3-dihydrobenzofuran-4-yl)cyclopropyl]methyl]propanamide
To a solution of (trans)-N-[[2-(2,3-dihydrobenzofuran-4-yl)cyclopropyl]methyl]propanamide (120 mg, 0.6 mmol) in THF (1.5 mL) was added sodium hydride (30 mg of 60%, 0.75 mmol). The mixture was allowed to stir for 0.5 h and iodomethane (140 mg, 1 mmol) was added. After stirring for 18 h, the solution was concentrated in vacuo. The residue was dissolved in acetonitrile and washed with hexane. The acetonitrile solution was concentrated in vacuo and the residue purified by chromatography on silica eluting with ethyl acetate-hexane (2:8) to give the product as an amber oil (90 mg, 69%). Anal. Calc'd for C16H21NO2. 0.2H2O: C, 73.08; H, 8.20; N 5.33; Found: C, 72.91; H, 8.24; N, 5.23.

reactant | (trans)-N-[[2-(2,3-dihydrobenzofuran-4-yl)cyclopropyl]methyl]propanamide | 0.6 mmol, 120 mg | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)CNC(CC)=O | C15H19NO2
reactant | sodium hydride | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | iodomethane | 1 mmol, 140 mg | IC | CH3I
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (trans)-N-Methyl-N-[[2-(2,3-dihydrobenzofuran-4-yl)cyclopropyl]methyl]propanamide | 90 mg, 69% | CN(C(CC)=O)C[C@H]1[C@@H](C1)C1=CC=CC2=C1CCO2 | C16H21NO2
